### PR TITLE
feat(Ramanujan): prove `pi_error_identity`

### LINKED ISSUE #986: [RAMANUJAN]: Integral identity for pi - li
## Description

Follows from an identity already established in the Rosser-Schoenfeld file

## Blueprint

[Lemma 11.4.1](https://alexkontorovich.github.io/PrimeNumberTheoremAnd/blueprint/tertiary-chapter.html#pi-error-identity)

## Zulip

TBD

### PR DESCRIPTION
**Pull request by pitmonticone**
This PR fixes the misformalised statement of `pi_error_identity` and adds proofs autoformalised by @Aristotle-Harmonic with minor manual golfing.

Co-authored-by: Aristotle (Harmonic) [aristotle-harmonic@harmonic.fun](mailto:aristotle-harmonic@harmonic.fun).

Closes #986

### CODE REVIEW

File: PrimeNumberTheoremAnd/Ramanujan.lean [hunk 1]
```diff
@@ -90,17 +90,166 @@ theorem criterion (m_a M_a x_a : ℝ)
...
+      h_ftc using 1 ; ring_nf
+    by_cases h : t = 0 <;> simp [sq, mul_assoc, h]
+    by_cases h' : log t = 0 <;> aesop
+  · exact ContinuousOn.intervalIntegrable (continuousOn_of_forall_continuousAt fun t ht ↦
+      ContinuousAt.div continuousAt_const (continuousAt_log
+        (by linarith [Set.mem_Icc.mp (by simpa [hx] using ht)]))
+          (ne_of_gt (log_pos (by linarith [Set.mem_Icc.mp (by simpa [hx] using ht)]))))
+
+/-- Relationship between `pi(x)` and `theta(x)` using partial summation. -/
+lemma pi_eq_theta_div_log_add_integral (x : ℝ) (hx : 2 ≤ x) :
```
Comment (teorth) [inline PrimeNumberTheoremAnd/Ramanujan.lean]: Would it be possible to use https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/Chebyshev.html#Chebyshev.primeCounting_eq_theta_div_log_add_integral as a substitute here?

Comment (pitmonticone) [reply PrimeNumberTheoremAnd/Ramanujan.lean]: Sure, it won't be hard. Let me do it
